US05173497
To a solution of TMEDA (2.85 ml) in anhydrous ether (5.0 ml) was added at -78° C. under N2 atmosphere, sec-butyllithium (14.5 ml). The resulting solution was subsequently treated with a solution of 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (3.80 g) in anhydrous ether (10 ml). The mixture was held at this temperature for 3 hours and then added to a solution of diisopropylamino-oxo-acetic acid, ethyl ester (7.5 g) in anhydrous ether (15 ml). After stirring at -78° C. for 4 hours, the reaction mixture was quenched with 50 ml of aqueous NH4Cl solution. The organic and aqueous phases were separated and the organic phase washed successively with saturated aqueous NaHCO3 and brine. The organic phase was dried (Na2SO4), filtered and concentrated to an oil which was purified by HPLC (silica gel, 10% MeOH in ethyl acetate as eluent). 2.8 g of 1,2,3,3a,8,8a-Hexahydro-α-oxo- 1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, diisopropyl amide was obtained as a foam. Trituration with hexane and drying under reduced pressure yielded an analytically pure sample.

reactant | TMEDA | 2.85 ml | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium | 14.5 ml | C(C)(CC)[Li]
reactant | 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 3.80 g | BrC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17BrN2
reactant | diisopropylamino-oxo-acetic acid, ethyl ester | 7.5 g | C(C)(C)N(C(C)C)C(C(=O)OCC)=O | C10H19NO3
solvent | ether | 5.0 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 1,2,3,3a,8,8a-Hexahydro-α-oxo- 1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, diisopropyl amide | 2.8 g | C(C)(C)N(C(C(C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C)=O)=O)C(C)C | C21H31N3O2
